US08791107B2
5-(4-(methylsulfonyl)benzyl)-2-(1H-pyrrolo[2,3-b]pyridin-5-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 3 using 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x9, 50 mg, 0.127 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (61.8 mg, 0.253 mmol) and PdCl2(dppf) (4.63 mg, 6.33 μmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.14-3.26 (m, 2H), 3.31-3.45 (m, 6H), 3.54-3.65 (m, 2H), 3.93-4.03 (m, 1H), 4.03-4.13 (m, 1H), 4.62-4.72 (m, 2H), 6.51-6.61 (m, 1H), 7.44-7.53 (m, 1H), 7.53-7.60 (m, 1H), 7.60-7.68 (m, 2H), 7.89-7.96 (m, 2H), 8.67-8.73 (m, 1H), 8.99-9.07 (m, 1H), 11.76-12.07 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C24H24N6O3S, 477.16. found 477.3.

reactant | 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.127 mmol, 50 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.253 mmol, 61.8 mg | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)NC=C2)C | C13H17BN2O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 6.33 μmol, 4.63 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-(methylsulfonyl)benzyl)-2-(1H-pyrrolo[2,3-b]pyridin-5-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | CS(=O)(=O)C1=CC=C(CN2C=3C=NC(=NC3N3C(C2)COCC3)C=3C=C2C(=NC3)NC=C2)C=C1 | C24H24N6O3S
